datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C)[NH]C([H])C(CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C([H])C(CC)[O]2.C[NH:10][H] 21=20;20,10=10"
"[O-:10]C(CCC)/C([H])=C(C)\C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C(C)=C([H])C(CCC)[O:10]1 10=20;20,21=21"
"[H][NH:10]C(C)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C8=CC=CC=C8)[NH][H] 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]C)CCCCCC)[H]>>[H]C1C(C(O[C:20](=[O:10])N1C)CCCCCC)[H].[O-:21]C 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)O[H])CC)CCCCCC>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])O[H])CC)CCCCCC 10=20;20,21=21"
"[H][S+:10](C(CC)C(C)C([H])[S]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)C([H])[S][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(CC)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"[Li][O:21]CC.[C:20](=[O:10])(OCC)OC1=CC=CC=C1>>[Li][O+:21]([C:20]([O-:10])(OCC)OC1=CC=CC=C1)CC 21=20;20,10=10"
"[H][NH:10]C([H])C(CC)[NH][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"[NH:10](C)C(CC)C([H])C([H])C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C([H])C([H])C(CC)[NH+:10]1(C) 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1 10=20;20,21=21"
"CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)[H]>>CCC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)CC.[O-:21]CC>>CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)CCCCCC)CC 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[O]2.C[NH:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C([H])[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C([H])[NH]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH](C)[S]1 10=20;20,21=21"
"CC1C(O[C:20](=[O:10])N1CC)CC.[O-:21]CCCCCC>>CC1C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)CC 21=20;20,10=10"
"C[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].C[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O]C 21=20;20,10=10"
"[H][S+:10](C(C)C(C)C(C)[O]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C(C)[O][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[OH:21][C:20]1(OCC)[OH+:10]C(CCC)C(O)=C1O>>[OH:10]C(CCC)/C(O)=C([C:20](OCC)=[OH+:21])/O 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([NH:21]CC)([O]C8=CC=CC=C8)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O:10][H].CC[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]C7=CC=CC=C7 21=20;20,10=10"
"[O-:21][C:20]1(C)C(O)C(C)C(C)C([H])[O:10]1>>[O-:10]C([H])C(C)C(C)C(O)[C:20](C)=[O:21] 21=20;20,10=10"
"[H]C1C(O[C:20](N1CC)([O-:10])[Cl:21])CCCCCC>>[H]C1C(O[C:20](=[O:10])N1CC)CCCCCC.[Cl-:21] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C([H])[CH](CC)[O]1 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)C1=CC=CC=C1)CC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)C1=CC=CC=C1)[O-:10])CC 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1[H])CC)CC.[O-:21]CCCCCC>>[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)CC)CC 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC)[H].[O-:21]CCCCCC>>CCCCCCN([C:20]([O-:10])(OC)[O:21]CCCCCC)[H] 21=20;20,10=10"
"CCCCCCN([C:20]([O-:10])(OCCCCCC)[O:21]C)[H]>>CCCCCCN([C:20](=[O:10])OCCCCCC)[H].[O-:21]C 10=20;20,21=21"
"[H][O+:10](C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][O:10]C([H])C(CC)[NH][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"[H][NH:10]C(C)C(C)[O][C:20]([O][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)[O]1)[C:20]1([NH:21][H])[O][H] 10=20;20,21=21"
"[H][NH:10]C(C)C([H])C(CC)[NH][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
